US06703083B2
A Grignard reagent was prepared from 100 ml of THF, magnesium (120 mmole) and 1-trifluoromethoxy-4-(trans-4-(trans-4-chloroethylcyclohexyl)cyclohexyl)benzene (100 mmole) under nitrogen atmosphere. A THF 100 ml solution of tetramethoxysilane (150 mmole) was heated to 65° C., and the Grignard reagent was added dropwise thereto. The solution was stirred at the same temperature for 2 hours, and after left standing for cooling, the reaction mixture was filtered. The solvent was distilled off, and then 1-trifluoromethoxy-4-(trans-4-(trans-4-trimethoxysilylethylcyclohexyl)cyclohexyl)benzene (57 mmole) was obtained by distillation under reduced pressure.

reactant | magnesium | 120 mmole | [Mg] | Mg
reactant | 1-trifluoromethoxy-4-(trans-4-(trans-4-chloroethylcyclohexyl)cyclohexyl)benzene | 100 mmole | FC(OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCCl)(F)F | C21H28ClF3O
reactant | tetramethoxysilane | 150 mmole | CO[Si](OC)(OC)OC | C4H12O4Si
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-trifluoromethoxy-4-(trans-4-(trans-4-trimethoxysilylethylcyclohexyl)cyclohexyl)benzene | 57 mmole | FC(OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CC[Si](OC)(OC)OC)(F)F | C24H37F3O4Si
